US06191273B1
6-(1-Pyrenecarbonyl)-3,10-bis(2-nitrobenzenesulfonyl)-3,6,10,16-tetraazabicyclo[10.3.1]hexadeca-1(16),12,14-triene
The title compound was prepared following the procedures illustrated above in Example 75 using 3,10-bis(2-nitrobenzenesulfonyl)-3,6,10,16-tetraazabicyclo-[10.3.1]hexadeca-1(16),12,14-triene (0.59 g, 1.0 mmol), 1-pyrenecarboxylic acid (0.25 g, 1.0 mmol), DCC (0.21 g, 1.0 mmol), HOBT (0.14 g, 1.0 mmol) and 4-methylmorpholine (0.15 g, 1.5 mmol) in 20 mL of CH2Cl2 and 10 mL of DMF. The compound was purified by flash chromatography on a silica gel column using 200:1 CH2Cl2—MeOH as an eluent to give 0.7 g (86%) of the title compound as a pale yellow foam.

reactant | 3,10-bis(2-nitrobenzenesulfonyl)-3,6,10,16-tetraazabicyclo-[10.3.1]hexadeca-1(16),12,14-triene | 1.0 mmol, 0.59 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N1CC=2C=CC=C(CN(CCCNCC1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])N2 | C24H26N6O8S2
reactant | 1-pyrenecarboxylic acid | 1.0 mmol, 0.25 g | C1(=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)C(=O)O | C17H10O2
reactant | DCC | 1.0 mmol, 0.21 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBT | 1.0 mmol, 0.14 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-methylmorpholine | 1.5 mmol, 0.15 g | CN1CCOCC1 | C5H11NO
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 6-(1-Pyrenecarbonyl)-3,10-bis(2-nitrobenzenesulfonyl)-3,6,10,16-tetraazabicyclo[10.3.1]hexadeca-1(16),12,14-triene | 0.7 g, 86% | C1(=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)C(=O)N3CCN(CC=4C=CC=C(CN(CCC3)S(=O)(=O)C3=C(C=CC=C3)[N+](=O)[O-])N4)S(=O)(=O)C4=C(C=CC=C4)[N+](=O)[O-] | C41H34N6O9S2
